US08975254B2
N-(2-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-3-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 31 using 5-pyridin-3-yl-4H-pyrazole-3-carboxylic acid (0.46 g; 2.43 mmol), 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile (0.50 g; 2.21 mmol), HOBt (0.45 g; 3.31 mmol), EDCI (0.64 g; 3.31 mmol) and 0.58 ml (3.31 mmol) of DIPEA as starting materials. After workup the product was precipitated out from DCM to give 0.56 g (64%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 3.67-3.76 (m, 2H), 4.33-4.41 (m, 2H), 6.85 (d, 1H), 7.22 (s, 1H), 7.49 (dd, 1H), 7.74-7.82 (m, 2H), 7.83 (d, 1H), 7.88 (broad s, 1H), 8.10-8.18 (m, 1H), 8.44-8.58 (m, 2H), 9.00 (broad s, 1H), 13.82 (s, 1H).

reactant | 5-pyridin-3-yl-4H-pyrazole-3-carboxylic acid | 2.43 mmol, 0.46 g | N1=CC(=CC=C1)C=1CC(=NN1)C(=O)O | C9H7N3O2
reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile | 2.21 mmol, 0.50 g | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C | C13H14N4
reactant | HOBt | 3.31 mmol, 0.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 3.31 mmol, 0.64 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 3.31 mmol, 0.58 ml | CCN(C(C)C)C(C)C | C8H19N
product | N-(2-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-3-yl)-1H-pyrazole-5-carboxamide | 0.56 g, 64% | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)CCNC(=O)C1=CC(=NN1)C=1C=NC=CC1)C | C22H19N7O
